US04101522
(B) Preparation of 4-t-butylazo-4-azidovaleric acid
A mixture of 73.3 grams (0.223 moles) of n-butyl 4-t-butylazo-4-azidovalerate and 38.4 grams (0.24 moles) of 25% NaOH in a 250 ml. round bottom flask were warmed to 80° C in an oil bath. The mixture was stirred for 90 minutes at 80° C and then cooled to room temperature. It was then poured into 200 ml. of water and the aqueous solution extracted with 50 ml. of methylene chloride and the methylene chloride layer discarded. The aqueous solution was acidified with concentration HCl to a pH of 3 and then extracted with pentane. The pentane solution was dried over anhydrous sodium sulfate, filtered and the pentane evaporated to leave 48.0g (92.4% yield) of a light yellow solid.

reactant | n-butyl 4-t-butylazo-4-azidovalerate | 0.223 moles, 73.3 grams | C(C)(C)(C)N=NC(CCC(=O)OCCCC)(C)N=[N+]=[N-] | C13H25N5O2
reactant | NaOH | 0.24 moles, 38.4 grams | [OH-].[Na+]
product | 4-t-butylazo-4-azidovaleric acid | 48.0g, 92.4% yield | C(C)(C)(C)N=NC(CCC(=O)O)(C)N=[N+]=[N-] | C9H17N5O2
